US07326710B2
(IV-2) N1,N4-diphenacyl piperazine dihydrochloride
A mixture of piperazine (2 g, 23.22 mmol), 2-chloro-1-phenylethanone (7.89 g) and K2CO3 (8 g, 58.08 mmol) in 30 ml of DMF was stirred at 50° C. for 8 h, and treated according to the general preparation 2 to give 6.6 g of compound (IV-2) (72%), mp 258-259° C., M+ 322.

reactant | piperazine | 23.22 mmol, 2 g | N1CCNCC1 | C4H10N2
reactant | 2-chloro-1-phenylethanone | 7.89 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | K2CO3 | 58.08 mmol, 8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N1,N4-diphenacyl piperazine dihydrochloride | 6.6 g, 72% | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCN(CC1)CC(=O)C1=CC=CC=C1 | InChI=1S/C20H22N2O2.2ClH/c23-19(17-7-3-1-4-8-17)15-21-11-13-22(14-12-21)16-20(24)18-9-5-2-6-10-18;;/h1-10H,11-16H2;2*1H
